US09260400B2
3-(2-Chloroethoxy)-N-[(4methoxyphenyl)methyl]propanamide
Title compound was prepared starting from 4-methoxyphenylmethanamine and 3-(2-chloroethoxy)propanoyl chloride following the procedure outlined for Example 27A. 1H NMR (CDCl3): δ 2.38-2.41 (m, 2H), 2.60-2.63 (m, 2H), 3.54-3.60 (m, 2H), 3.66-3.69 (m, 2H), 3.80 (s, 3H), 4.45 (d, 2H, J=6.1 Hz), 6.12 (br t, 1H, D2O exchanged), 6.80-6.87 (m, 4H).

reactant | 4-methoxyphenylmethanamine | COC1=CC=C(C=C1)CN | C8H11NO
reactant | 3-(2-chloroethoxy)propanoyl chloride | ClCCOCCC(=O)Cl | C5H8Cl2O2
product | 3-(2-Chloroethoxy)-N-[(4methoxyphenyl)methyl]propanamide | ClCCOCCC(=O)NCC1=CC=C(C=C1)OC | C13H18ClNO3
